Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Iodine-Iodine Containing / Adalat CC / Atenolol / Ibuprofen / 
ciprofloxacin
 
Attending: ___
 
Chief Complaint:
difficulty walking, L arm weakness

 
Major Surgical or Invasive Procedure:
right craniotomy for evacuation of subdural hematoma ___

 
History of Present Illness:
Mr. ___ is a ___ year old male who was noted by his family
to have some difficulty ambulating since last week ___.
Patient is a resident at an ___
with his wife. The staff of the facility noted today that he had
difficulty lifting a cup with his L hand today. He was taken to
___ where a CT head was completed which 
revealed
an acute on chronic R SDH. Patient was transferred her for
further management. He takes 81 mg aspirin daily. He denies any
recent falls. He denies headache, nausea, change in vision but
describes some L sided weakness. Family reports remote history 
of
fall approximately 3 months ago. 

 
Past Medical History:
:*S/P LUMBAR COMPRESSION  
BCC-R PINNA, CARPAL TUNNEL RELEASE , CARPAL TUNNEL SYNDROME 
CERVICAL SPONDYLOSIS, COLONIC POLYPS, DEVIATED NASAL SEPTUM ,
DIABETES TYPE II, ELEVATED CHOLESTEROL, GASTROESOPHAGEAL REFLUX,
HYPERTENSION , KIDNEY STONES  ,LATERAL ___ , OBESITY ,
POLYPLOID LESION , RIGHT LATERAL TEMPORAL BONE LESION 
S/P LUMBAR LAMINECTOMY , S/P TURP, SKIN TUMOR-BX DONE ___,
TINNITUS 

 
Social History:
___
Family History:
non conttributory
 
Physical Exam:
PHYSICAL EXAM:
O: T:98.7  BP: 143/76   HR:70    R16  O2Sats 99% on RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 4-3mm bilaterally EOMs intact
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. Visual fields are full to confrontation.
movements intact bilaterally without
nystagmus.
V, VII: Facial sensation intact and symmetric. L nasolabial
flattening 
VIII: Patient is very hard of hearing at baseline, wears hearing
aids
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout except L IP ___. L
pronator drift 

Sensation: Intact to light touch, proprioception, pinprick and
vibration bilaterally.

Toes downgoing bilaterally

Handedness Right

on the day of discharge ******
 
Pertinent Results:
___ EKG
Sinus rhythm. P-R interval prolongation. There is an atrial 
premature beat that blocks to the ventricle. All other P waves 
conduct despite a long P-R interval. There is left axis 
deviation. Possible left anterior fascicular block. Compared to 
the previous tracing of ___ the blocked atrial premature beat 
is new. The rate is now slower. 

___ EKG 
Sinus rhythm with atrial trigeminy. The atrial premature beat 
blocks to the ventricle. Left axis deviation. ST segment 
depression. Compared to the previous tracing atrial premature 
beats are now more frequent 

___ EKG 
Sinus rhythm with atrial trigeminy. The atrial premature beat 
blocks to the ventricle. Left axis deviation. ST segment 
depression. Compared to the previous tracing atrial premature 
beats are now more frequent 

CT HEAD W/O CONTRAST ___ 4:41 AM 
1. Large mixed density right subdural collection has decreased 
in size but remain substantial, up to 2.3 cm. Associated mass 
effect has partially improved. 2. New left subdural effusion. 
3. Extensive postsurgical bifrontal extra-axial pneumocephalus. 
4. Partially visualized large periapical lucency in the right 
maxilla, 
elevating the floor of the maxillary sinus with minimal mucosal 
thickening along the floor. No osseous defect in the maxillary 
sinus floor. 
  
  
___ CT head
1. No significant change in appearance of mixed density right 
subdural 
collection, with associated local mass effect and 4 mm leftward 
shift of the 
midline structures. 
2. Stable hypodense left subdural effusion. No new foci of 
intracranial 
hemorrhage is identified. 
3. Postsurgical changes related to right frontal craniotomy 
include extensive 
bifrontal extra-axial pneumocephalus, with redistribution into 
the 
extracranial soft tissues on the left. 

___ EKG
Sinus rhythm, rate about 100 with one dropped beat over the 
course of the 
tracing suggesting type I second degree A-V block. Since the 
previous tracing the atrial rate is now slower and block is less 
apparent. 

___ CT Head:
1. No change in the overall size of right subdural fluid 
collection; however, there is a enlarging component of 
organizing hematoma, concerning for interval and even active 
bleeding. 
2.  No other new site of hemorrhage or infarction. Decreased 
leftward midline shift. 
3.  No change in left-sided subdural fluid collection, which may 
represent a true hygroma. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male who was noted by his family
to have some difficulty ambulating since last week ___.
Patient is a resident at an ___
with his wife. The staff of the facility noted today that he had
difficulty lifting a cup with his L hand today. He was taken to
___ where a CT head was completed which 
revealed
an acute on chronic R SDH. Patient was transferred her for
further management. The patient was evaluated by neurosurgery 
and taken emergently to the operating room for evacuation of the 
subdural hematoma.   

On ___, The patient was called out to floor.  The patients left 
IP was ___ otherwise the patient was intact.  The patient was 
noted to be severely hard of hearing. The patient has a ___ 
post operatively that was consistent with expected post 
operative changes and was placed on a 100 % non rebreather. The 
serum sodium was 132.  Consultations for physical and 
occupational therapy were placed.  The patient was noted to have 
new onset2nd degree, Mobitz type I (___) AV block with 
disease likely within the AV node and cardiology was consulted.  
They did not recommend and intervention or change in the current 
treatment plan.  In the late afternoon the patient was noted to 
be more somulent and a Stat NCHCT was performed which was stable 
compared to prior study, improving pneumocephalus. Patient 
remained in ICU overnight. 

On ___ Patient much more alert and interactive. Non rebreather 
discontinued. Patient was transferred to the neurosurgical 
floor. He was noted to have a UTI and was started on bactrim

On ___ Patient remained neurologically stable. Physical therapy 
was consulted to evaluate the patient. He underwent an ECHO 
which shows normal Systolic function with an EF of 55 % and mild 
diastolic dysfunction. CXR showed mild to moderate pulmonary 
edema and he recieved 20mg of lasix on ___. 

On ___, the patient's Na was 131 and Phosphorous was 2.0. These 
electrolytes were repleted. The patient remained neurologically 
stable. 
His sodiums were trended daily and was 133 upon discharge.  He 
continued to remain stable neurologically. He had mild 
hypophosphatemia which was replaced accordingly.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO HS 
2. Simvastatin 20 mg PO DAILY 
3. oxybutynin chloride 10 mg oral daily 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. LeVETiracetam 500 mg PO BID 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. oxybutynin chloride 10 mg oral daily 
7. Simvastatin 20 mg PO DAILY 
8. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
subdural hematoma
cerebral edema
hyponatremia
CHF
pulmonary edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
¨     Keep your staples  clean and dry until they are removed. 

¨     Have a friend or family member check the wound for signs 
of infection such as redness or drainage daily. 

¨     Take your pain medicine as prescribed if needed. You do 
not need to take it if you do not have pain.

¨     Exercise should be limited to walking; no lifting >10lbs, 
straining, or excessive bending.

¨     Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.

¨     DO not take any anti-inflammatory medicines such as 
Motrin, Aspirin, Advil, or Ibuprofen etc. until follow up.

¨     ***You have been discharged on Keppra (Levetiracetam) for 
anti-seizure medicine; you will not require blood work 
monitoring.

¨     Do not drive until your follow up appointment.

 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

 

¨     New onset of tremors or seizures.

¨     Any confusion, lethargy or change in mental status. 

¨     Any numbness, tingling, weakness in your extremities.

¨     Pain or headache that is continually increasing, or not 
relieved by pain medication.

¨     New onset of the loss of function, or decrease of function 
on one whole side of your body.

 

 

 
Followup Instructions:
___